US09085576B2
Step 3: 4-Chloro-5-fluoro-7-methoxyquinazoline
To a suspension of 5-fluoro-7-methoxyquinazolin-4-ol (0.125 g, 0.644 mmol) in thionyl chloride (1.410 mL, 19.31 mmol) was added N,N-dimethylformamide (0.028 mL, 0.361 mmol). The reaction was stirred at 80° C. for 6 hours and concentrated in vacuo. The residue was suspended in saturated aqueous sodium bicarbonate and extracted with dichloromethane. The organic layer was concentrated in vacuo to generate the title compound (0.13 g, 0.611 mmol) as a yellow solid. LC/MS (ESI+) m/z=213 (M+H)+.

reactant | 5-fluoro-7-methoxyquinazolin-4-ol | 0.644 mmol, 0.125 g | FC1=C2C(=NC=NC2=CC(=C1)OC)O | C9H7FN2O2
reactant | thionyl chloride | 19.31 mmol, 1.410 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.361 mmol, 0.028 mL | CN(C=O)C | C3H7NO
product | 4-Chloro-5-fluoro-7-methoxyquinazoline | 0.611 mmol, 0.13 g | ClC1=NC=NC2=CC(=CC(=C12)F)OC | C9H6ClFN2O
